2153-06-21 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -on bypap for most of day with slight improvement in resp symptoms
   (wheezing present)
   -steroids, abx, nebs.
   -a-line placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2153-6-20**] 10:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-21**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 82 (74 - 88) bpm
   BP: 145/81(103) {87/67(-13) - 147/88(104)} mmHg
   RR: 20 (14 - 23) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    608 mL
                                                                     71 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                    408 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    700 mL
   Urine:
                                                                    550 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     58 mL
                                                                   -629 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 468 (310 - 983) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 31%
   PIP: 16 cmH2O
   SpO2: 92%
   ABG: 7.39/53/68/30/5
   Ve: 4.9 L/min
   PaO2 / FiO2: 243
   Physical Examination
   General Appearance: Well nourished, A+Ox2 this morning
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at B bases, Wheezes : throughout, Diminished: ), continues to have very
   poor air movement bilaterally, most notably at bases
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): time and name, had wrong hospital,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   182 K/uL
   12.6 g/dL
   144 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.6 mEq/L
   26 mg/dL
   99 mEq/L
   139 mEq/L
   39.7 %
   15.1 K/uL
        [image002.jpg]
                             [**2153-6-20**]  09:45 AM
                             [**2153-6-20**]  03:26 PM
                             [**2153-6-20**]  03:37 PM
                             [**2153-6-20**]  10:08 PM
                             [**2153-6-21**]  01:09 AM
                             [**2153-6-21**]  03:59 AM
                             [**2153-6-21**]  05:59 AM
   WBC
   15.1
   Hct
   39.7
   Plt
   182
   Cr
   1.0
   TropT
   <0.01
   TCO2
   34
   33
   36
   35
   33
   Glucose
   144
   Other labs: PT / PTT / INR:11.7/23.9/1.0, CK / CKMB /
   Troponin-T:36//<0.01, Differential-Neuts:90.6 %, Lymph:8.5 %, Mono:0.8
   %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   48 y/o M with hx of asthma/COPD, Hep C and hx of substance abuse
   presents with worsening shortness of breath and COPD flare.
   .
   # Hypercarbic Respiratory Failure - secondary to his COPD flare.
   Likely his CO2 runs in high 40s.  Treatment of COPD exaccerbation as
   below.  Mental status much improved.
   - tolerated bipap throughout night yesterday, switched to venti mask
   last evening
   - CO2s in 50s, which is improved over yesterday
   - conitinue serial ABGs to follow CO2
   - will try bipap at night with autotitration
   .
   # COPD exaccerbation - patient symptoms and recent end of prednisone
   taper are most consistent with COPD flare.
   - repeat ABG to reassess CO2
   - cont steroids solumedrol 125 mg q8hrs, insulin SC while on steroids
   - add azithro for COPD flare
   .
   # RML/LLL infiltrate on CXR
 patient not coughing, WBC stable, no
   fevers.  On azithro for COPD flare; if spikes or clinically worsens
   would broaden to levofloxacin or add ceftriaxone.
   .
   # Somnolence - likely due to hypercarbia, could be secondary to other
   causes like etoh/drugs, but tox screens negative and patient
s mental
   status is improving as respiratory status improving..
   - continue to correlate mental status with CO2, should improve as his
   respiratory status improves.
   .
   # Chest pain - nonspecific symptoms, unlikely ACS as EKG unchanged and
   Ces neg x2.
   - continue tylenol for musculoskeletal chest pain, could potentially be
   related to PNA.
   .
   # Headache - likely secondary to his respiratory distress, can try
   tylenol for pain control, appears comfortable without any neurolgical
   symptoms or findings on exam.
   - tylenol PRN
   .
   # Hep C
 stable
   .
   # Anxiety - continue home medicines once mental status has improved.
   .
   # Hx of substance abuse - tox screens negative, cont nicotine patch
   .
   FEN: replete electrolytes, regular diet
   Prophylaxis: Subutaneous heparin
   Access: 2 peripherals
   Code:  Full (discussed with patient)
   Communication: Patient, brother [**Name (NI) 751**], [**Telephone/Fax (1) 8968**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-6-20**] 08:30 AM
   22 Gauge - [**2153-6-20**] 10:00 AM
   Arterial Line - [**2153-6-20**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-06-21 10:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   tolerated BiPAP intermittently yest pm.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2153-6-21**] 10:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Colace, Klonopin 1 [**Hospital1 **], Mirtazipine 30 qhs, Paxil 20 am, Aripiprazole,
   Azithromycin, Solu-Medrol 125 q8, Atrovent, Albuterol, RISS, Heparin sc
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-21**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 86 (74 - 93) bpm
   BP: 140/79(99) {87/67(-13) - 153/88(108)} mmHg
   RR: 20 (14 - 23) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    608 mL
                                                                    400 mL
   PO:
                                                                     50 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    408 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    700 mL
   Urine:
                                                                    550 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     58 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 468 (310 - 983) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 28%
   PIP: 16 cmH2O
   SpO2: 92%
   ABG: 7.39/53/68/30/5
   Ve: 4.9 L/min
   PaO2 / FiO2: 243
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Wheezes : , Diminished:
   markedly decreased air mvmt)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.6 g/dL
   182 K/uL
   144 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.6 mEq/L
   26 mg/dL
   99 mEq/L
   139 mEq/L
   39.7 %
   15.1 K/uL
        [image002.jpg]
                             [**2153-6-20**]  09:45 AM
                             [**2153-6-20**]  03:26 PM
                             [**2153-6-20**]  03:37 PM
                             [**2153-6-20**]  10:08 PM
                             [**2153-6-21**]  01:09 AM
                             [**2153-6-21**]  03:59 AM
                             [**2153-6-21**]  05:59 AM
   WBC
   15.1
   Hct
   39.7
   Plt
   182
   Cr
   1.0
   TropT
   <0.01
   TCO2
   34
   33
   36
   35
   33
   Glucose
   144
   Other labs: PT / PTT / INR:11.7/23.9/1.0, CK / CKMB /
   Troponin-T:36//<0.01, Differential-Neuts:90.6 %, Lymph:8.5 %, Mono:0.8
   %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.9 mg/dL
   Imaging: [**6-21**] CXR- RML and LLL infiltrate
   Microbiology: cx pending or neg
   Assessment and Plan
   48 y/o M with hx of asthma/COPD, Hep C and hx of substance abuse
   admitted [**6-20**] w/ acute hypercarbic resp failure related to exacerbation
   of obstructive lung disease.
   Hypercarbic Respiratory Failure- due to obstructive lung disease flare,
   also with likely component of OSA/OHV. baseline PCO2 in high 40s per
   record. improved today but still off baseline
   -obstructive lung disease tx as below
   -sleep disordered breathing mgmt as below
   -cont trending mental status and PCO2
   -BiPAP by day as needed
   COPD exacerbation - multiple recurrent flares, ? if some home or
   environmental exposure related to such poor control
   -steroids IV today; insulin while on steroids
   -azithro to help
   Probable OSA/OHV
   -BiPAP overnight, up-titrate as needed
   -will need eventual sleep study to diagnoise
   Anxiety - continue home medicines
   Remainder of plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: advance po diet today
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   20 Gauge - [**2153-6-20**] 08:30 AM
   22 Gauge - [**2153-6-20**] 10:00 AM
   Arterial Line - [**2153-6-20**] 02:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   [image004.jpg]
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2153-6-21**] 15:36 ------
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2153-6-21**] 15:37 ------
   [image005.jpg]
   I was present with MICU housestaff team for the key portions of
   services provided and agree with the history, physical, assessment and
   plan as outlined by Dr. [**Last Name (STitle) 5199**] above. I would add the following:
   48 yo male with Hep C, hx of polysubstance abuse and COPD admitted
   yesterday with severe COPD exacerbation and severe hypercarbic failure.
   He has been on intermittent NIPPV. Physical exam today reveals slight
   improvement in aeration, though air movement still quite tight. pCO2
   slightly reduced on blood gases. He overall is improved, but remains
   critically ill. Will continue nebs, IV steroids, NIPPV. Drug screen was
   negative (aside from benzodiazepines which is part of his home
   regimen). Degree of emphysema seen on chest CT may reflect prior
   cocaine and heroin use, but it remains unclear why he
s having
   recurrent COPD exacerbations.
   Total time spent on pt: 40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2153-6-21**] 15:50 ------

2153-06-22 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - venti mask during day, doing well
   - bipap overnight, increased PSV over course of night due to increase
   in CO2, having obvious apneic periods, still higher CO2 in AM
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2153-6-21**] 10:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2153-6-21**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2153-6-21**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2153-6-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-22**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.5
   HR: 70 (70 - 109) bpm
   BP: 129/70(91) {98/63(78) - 157/91(115)} mmHg
   RR: 15 (11 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    780 mL
                                                                     72 mL
   PO:
                                                                    290 mL
             TF:
   IVF:
                                                                    490 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    950 mL
   Urine:
                                                                  1,400 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -620 mL
                                                                   -878 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 407 (407 - 700) mL
   PS : 12 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 19 cmH2O
   SpO2: 94%
   ABG: 7.36/60/81.[**Numeric Identifier 218**]/31/5
   Ve: 8.2 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Well nourished, A+Ox2 this morning
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at B bases, Wheezes : throughout, Diminished: ), continues to have very
   poor air movement bilaterally, most notably at bases
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): time and name, had wrong hospital,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   225 K/uL
   12.3 g/dL
   157 mg/dL
   1.0 mg/dL
   31 mEq/L
   4.9 mEq/L
   31 mg/dL
   101 mEq/L
   140 mEq/L
   36.8 %
   16.5 K/uL
        [image002.jpg]
                             [**2153-6-20**]  03:37 PM
                             [**2153-6-20**]  10:08 PM
                             [**2153-6-21**]  01:09 AM
                             [**2153-6-21**]  03:59 AM
                             [**2153-6-21**]  05:59 AM
                             [**2153-6-21**]  01:49 PM
                             [**2153-6-21**]  09:02 PM
                             [**2153-6-22**]  12:37 AM
                             [**2153-6-22**]  05:05 AM
                             [**2153-6-22**]  05:13 AM
   WBC
   15.1
   16.5
   Hct
   39.7
   36.8
   Plt
   182
   225
   Cr
   1.0
   1.0
   TCO2
   33
   36
   35
   33
   33
   33
   33
   35
   Glucose
   144
   157
   Other labs: PT / PTT / INR:11.7/23.9/1.0, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:30/16, Alk Phos / T Bili:65/0.2,
   Differential-Neuts:90.9 %, Lymph:6.8 %, Mono:1.8 %, Eos:0.3 %, Lactic
   Acid:1.8 mmol/L, LDH:184 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   48 y/o M with hx of asthma/COPD, Hep C and hx of substance abuse
   presents with worsening shortness of breath and COPD flare.
   .
   # Hypercarbic Respiratory Failure - secondary to his COPD flare and
   OSA.  Treatment of COPD exaccerbation as below.  Mental status much
   improved.  His high CO2 this morning was likely contributable to his
   OSA more than a worsening COPD exaccerbation. Bipap overnight was used
   but not titrated up aggressively enough.
   - will pursue either more aggressive bipap titration overnight or a
   true sleep study and monitor CO2
   - CO2s in 60s again, likely from OSA last night
   - conitinue serial ABGs to follow CO2
   - will try bipap at night with autotitration
   .
   # COPD exaccerbation - patient symptoms and recent end of prednisone
   taper are most consistent with COPD flare.
   - improved aeration in lungs today
   - cont steroids solumedrol 125 mg q8hrs, insulin SC while on steroids
   has received 2 days of steroids, will try 3 days total for IV steroids
   and then consider transition to PO
   - cont azithro for COPD flare
   .
   # RML/LLL infiltrate on CXR
 no new CXR, no clinical changes today;
   patient not coughing, WBC stable, no fevers.  On azithro for COPD
   flare; if spikes or clinically worsens would broaden to levofloxacin or
   add ceftriaxone.
   .
   # Somnolence
 improving, likely was from hypercarbia, as tox screens
   neg; continues to have morning somnulence that improves as the day
   progresses.
   .
   # Chest pain - nonspecific symptoms, unlikely ACS as EKG unchanged and
   Ces neg x2.
   - continue tylenol for musculoskeletal chest pain, could potentially be
   related to PNA.
   .
   # Headache - likely secondary to his respiratory distress, can try
   tylenol for pain control, appears comfortable without any neurolgical
   symptoms or findings on exam.
   - tylenol PRN
   .
   # Hep C
 stable
   .
   # Anxiety - continue home medicines, anxiety symptoms stable
   .
   # Hx of substance abuse - tox screens negative, cont nicotine patch
   .
   FEN: replete electrolytes, regular diet
   Prophylaxis: Subutaneous heparin
   Access: 2 peripherals, art line R wrist
   Code:  Full (discussed with patient)
   Communication: Patient, brother [**Name (NI) 751**], [**Telephone/Fax (1) 8968**]
   Disposition: pending clinical improvement , ICU overnight for bipap
   titration/?sleep study
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-6-20**] 08:30 AM
   22 Gauge - [**2153-6-20**] 10:00 AM
   Arterial Line - [**2153-6-20**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-06-22 10:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   tolerated vent mask through the day yesterday,
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2153-6-21**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2153-6-21**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2153-6-22**] 07:45 AM
   Other medications:
   Colace, Klonopin, Remeron, Paxil, Abilify, Azithromycin, Solu-Medrol
   125 IV q8, Atrovent, Albuterol, hep sc tid, RISS, nicotine patch
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-22**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.6
   HR: 75 (70 - 109) bpm
   BP: 139/76(99) {98/63(78) - 157/91(115)} mmHg
   RR: 16 (11 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    780 mL
                                                                     98 mL
   PO:
                                                                    290 mL
             TF:
   IVF:
                                                                    490 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    950 mL
   Urine:
                                                                  1,400 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -620 mL
                                                                   -852 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 407 (407 - 700) mL
   PS : 12 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 31%
   PIP: 19 cmH2O
   SpO2: 94%
   ABG: 7.36/60/81.[**Numeric Identifier 218**]/31/5
   Ve: 8.2 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): , Movement: Not
   assessed, Tone: Not assessed, lethargic but easily arousable
   Labs / Radiology
   12.3 g/dL
   225 K/uL
   157 mg/dL
   1.0 mg/dL
   31 mEq/L
   4.9 mEq/L
   31 mg/dL
   101 mEq/L
   140 mEq/L
   36.8 %
   16.5 K/uL
        [image002.jpg]
                             [**2153-6-20**]  03:37 PM
                             [**2153-6-20**]  10:08 PM
                             [**2153-6-21**]  01:09 AM
                             [**2153-6-21**]  03:59 AM
                             [**2153-6-21**]  05:59 AM
                             [**2153-6-21**]  01:49 PM
                             [**2153-6-21**]  09:02 PM
                             [**2153-6-22**]  12:37 AM
                             [**2153-6-22**]  05:05 AM
                             [**2153-6-22**]  05:13 AM
   WBC
   15.1
   16.5
   Hct
   39.7
   36.8
   Plt
   182
   225
   Cr
   1.0
   1.0
   TCO2
   33
   36
   35
   33
   33
   33
   33
   35
   Glucose
   144
   157
   Other labs: PT / PTT / INR:11.7/23.9/1.0, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:30/16, Alk Phos / T Bili:65/0.2,
   Differential-Neuts:90.9 %, Lymph:6.8 %, Mono:1.8 %, Eos:0.3 %, Lactic
   Acid:1.8 mmol/L, LDH:184 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   48 y/o M with hx of asthma/COPD, Hep C and hx of substance abuse
   admitted [**6-20**] w/ acute hypercarbic resp failure related to exacerbation
   of obstructive lung disease.
   Hypercarbic Respiratory Failure- due to obstructive lung disease flare,
   also with likely component of OSA/OHV. baseline PCO2 in high 40s per
   record. improved today clinically but w/ persistent am hypercarbia,
   suboptimal overnight NIPPV
   -obstructive lung disease tx as below
   -sleep disordered breathing mgmt as below
   -cont trending mental status and PCO2
   -BiPAP by day as needed, definitely needed overnight
   COPD exacerbation - multiple recurrent flares, ? if some home or
   environmental exposure related to such poor control
   -steroids IV another day of q8 Solu-Medrol, decrease tomorrow; insulin
   while on steroids
   -azithro for possible CXR infiltrates/ exacerbation. No clinical signs
   of pna
   Probable OSA/OHV- suboptimal overnight NIPPV
   -BiPAP overnight, up-titrate as needed
   -will need eventual sleep study to diagnoise
   Anxiety - continue home medicines
   Remainder of plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   20 Gauge - [**2153-6-20**] 08:30 AM
   22 Gauge - [**2153-6-20**] 10:00 AM
   Arterial Line - [**2153-6-20**] 02:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I was physically present with the resident team on this date for
   discussion of the above history, exam and assessment and plan with
   which I agree.  I independently examined the patient and would add the
   following comments: Admitted with acute hypercarbic failure from COPD
   exacerbation. Placed on BiPAP (PS 12/PEEP 5) last night, but still
   hypercarbic this morning, then improved during the afternoon. . Pt
   breathing is subjectively improved. Of note, he does link worsening of
   respiratory sx
s to a change in his home environment 2 months ago,
   noting increased levels of mold where he now resides for his treatment
   program.
   Physical exam reveals better aeration, though air movement still only
   fair.
   For his hypercarbic failure and COPD exacerbation, pt to continue on
   steroids, azithromycin, NIPPV. His body habitus would not suggest OHV
   though with his snoring and COPD there could be OSA +alveolar
   hypoventilation. Worsening hypercarbia overnight hard to interpret due
   to apparent poor mask fit. Plan to optimize mask fit tonight (nasal
   mask + biPAP machine if needed.) Will first adjust PS based on blood
   gases but if at PS ~15 and still hypercarbic, I would then increase
   PEEP.
   Pt is critically ill. Total time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2153-6-22**] 19:56 ------

2153-06-23 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - pCO2 improved during the day
   - BIPAP at night set as:
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2153-6-22**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-6-22**] 10:15 PM
   Lorazepam (Ativan) - [**2153-6-22**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: negative
   Flowsheet Data as of  [**2153-6-23**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.4
   HR: 66 (66 - 107) bpm
   BP: 155/94(118) {129/72(94) - 177/111(134)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                    920 mL
                  PO:
                                                                    480 mL
                  TF:
   IVF:
                                                                    440 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                      0 mL
   Urine:
                                                                  2,575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,655 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 94%
   ABG: 7.41/50/99.[**Numeric Identifier 508**]/28/5
   PaO2 / FiO2: 333
   Physical Examination
   General Appearance: Well nourished, A+Ox2 this morning
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at B bases, Wheezes : throughout, Diminished: ), continues to have very
   poor air movement bilaterally, most notably at bases
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): time and name, had wrong hospital,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   213 K/uL
   12.3 g/dL
   143 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.5 mEq/L
   31 mg/dL
   103 mEq/L
   140 mEq/L
   39.6 %
   15.7 K/uL
        [image002.jpg]
                             [**2153-6-21**]  09:02 PM
                             [**2153-6-22**]  12:37 AM
                             [**2153-6-22**]  05:05 AM
                             [**2153-6-22**]  05:13 AM
                             [**2153-6-22**]  01:54 PM
                             [**2153-6-22**]  11:13 PM
                             [**2153-6-23**]  01:44 AM
                             [**2153-6-23**]  03:45 AM
                             [**2153-6-23**]  03:55 AM
                             [**2153-6-23**]  06:55 AM
   WBC
   16.5
   15.7
   Hct
   36.8
   39.6
   Plt
   225
   213
   Cr
   1.0
   0.9
   TCO2
   33
   33
   35
   35
   35
   36
   36
   33
   Glucose
   157
   143
   Other labs: PT / PTT / INR:11.7/23.9/1.0, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:30/16, Alk Phos / T Bili:65/0.2,
   Differential-Neuts:90.9 %, Lymph:6.8 %, Mono:1.8 %, Eos:0.3 %, Lactic
   Acid:1.8 mmol/L, LDH:184 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 OBSTRUCTIVE SLEEP APNEA (OSA)
 CHEST PAIN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   .
   48 y/o M with hx of asthma/COPD, Hep C and hx of substance abuse
   presents with worsening shortness of breath and COPD flare.
   .
   # Hypercarbic Respiratory Failure - secondary to his COPD flare and
   OSA.  Treatment of COPD exaccerbation as below.  Mental status much
   improved.  His high CO2 this morning was likely contributable to his
   OSA more than a worsening COPD exaccerbation. Bipap overnight was used
   but not titrated up aggressively enough.
   - will pursue either more aggressive bipap titration overnight or a
   true sleep study and monitor CO2
   - CO2s in 60s again, likely from OSA last night
   - conitinue serial ABGs to follow CO2
   - will try bipap at night with autotitration
   .
   # COPD exaccerbation - patient symptoms and recent end of prednisone
   taper are most consistent with COPD flare.
   - improved aeration in lungs today
   - cont steroids solumedrol 125 mg q8hrs, insulin SC while on steroids
   has received 2 days of steroids, will try 3 days total for IV steroids
   and then consider transition to PO
   - cont azithro for COPD flare
   .
   # RML/LLL infiltrate on CXR
 no new CXR, no clinical changes today;
   patient not coughing, WBC stable, no fevers.  On azithro for COPD
   flare; if spikes or clinically worsens would broaden to levofloxacin or
   add ceftriaxone.
   .
   # Somnolence
 improving, likely was from hypercarbia, as tox screens
   neg; continues to have morning somnulence that improves as the day
   progresses.
   .
   # Chest pain - nonspecific symptoms, unlikely ACS as EKG unchanged and
   Ces neg x2.
   - continue tylenol for musculoskeletal chest pain, could potentially be
   related to PNA.
   .
   # Headache - likely secondary to his respiratory distress, can try
   tylenol for pain control, appears comfortable without any neurolgical
   symptoms or findings on exam.
   - tylenol PRN
   .
   # Hep C
 stable
   .
   # Anxiety - continue home medicines, anxiety symptoms stable
   .
   # Hx of substance abuse - tox screens negative, cont nicotine patch
   .
   FEN: replete electrolytes, regular diet
   Prophylaxis: Subutaneous heparin
   Access: 2 peripherals, art line R wrist
   Code:  Full (discussed with patient)
   Communication: Patient, brother [**Name (NI) 751**], [**Telephone/Fax (1) 8968**]
   Disposition: pending clinical improvement , ICU overnight for bipap
   titration/?sleep study
   .
   ICU Care
   Nutrition: PO
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-6-20**] 08:30 AM
   22 Gauge - [**2153-6-20**] 10:00 AM
   Arterial Line - [**2153-6-20**] 02:37 PM
   Prophylaxis:
   DVT: pneumoboots, hep sc
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: likely floor

2153-06-23 08:27:00 Physician Attending Progress Note
Chief Complaint: COPD
   HPI: Did well on BiPap overnight
   24 Hour Events:
   Titrated on bipap
 16/8 with 2L O2
   Slept very well overnight- no AM somnolence this morning
   Continues on IV solumedrol x 3 days
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2153-6-22**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-6-22**] 10:15 PM
   Lorazepam (Ativan) - [**2153-6-22**] 10:15 PM
   Other medications:
   Atrovent
   Albuterol nebs
   Solumedrol 125 Q8
   Abilify
   Paxil
   Remeron
   Clonipin
   Colace
   Insulin sliding scale
   Heparin subcut
   Nicotine patch
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: no dyspnea, no chest pain, no abd pain
   Flowsheet Data as of  [**2153-6-23**] 08:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.4
   HR: 66 (66 - 107) bpm
   BP: 155/94(118) {129/72(94) - 177/111(134)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                    920 mL
                  PO:
                                                                    480 mL
                  TF:
   IVF:
                                                                    440 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                      0 mL
   Urine:
                                                                  2,575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,655 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 94%
   ABG: 7.41/50/99.[**Numeric Identifier 508**]/28/5
   PaO2 / FiO2: 333
   Physical Examination
   General
 NAD, no accessory muscle use
   HEENT
 EOMI, PERRL, OP clear
   Chest
 right basilar crackles, poor air movement overall
 better at
   apices, no wheezing
   Heart- RRR
   Abd
 benign
   Ext
 wwp, no edema
   Labs / Radiology
   12.3 g/dL
   213 K/uL
   143 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.5 mEq/L
   31 mg/dL
   103 mEq/L
   140 mEq/L
   39.6 %
   15.7 K/uL
        [image002.jpg]
                             [**2153-6-21**]  09:02 PM
                             [**2153-6-22**]  12:37 AM
                             [**2153-6-22**]  05:05 AM
                             [**2153-6-22**]  05:13 AM
                             [**2153-6-22**]  01:54 PM
                             [**2153-6-22**]  11:13 PM
                             [**2153-6-23**]  01:44 AM
                             [**2153-6-23**]  03:45 AM
                             [**2153-6-23**]  03:55 AM
                             [**2153-6-23**]  06:55 AM
   WBC
   16.5
   15.7
   Hct
   36.8
   39.6
   Plt
   225
   213
   Cr
   1.0
   0.9
   TCO2
   33
   33
   35
   35
   35
   36
   36
   33
   Glucose
   157
   143
   Other labs: PT / PTT / INR:11.7/23.9/1.0, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:30/16, Alk Phos / T Bili:65/0.2,
   Differential-Neuts:90.9 %, Lymph:6.8 %, Mono:1.8 %, Eos:0.3 %, Lactic
   Acid:1.8 mmol/L, LDH:184 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   48 y/o M with hx of asthma/COPD, Hep C and hx of substance abuse
   admitted [**6-20**] w/ acute hypercarbic resp failure related to exacerbation
   of obstructive lung disease.
   Hypercarbic Respiratory Failure- due to obstructive lung disease flare,
   also with likely component of OSA/OHV. baseline PCO2 in high 40s per
   record. improved today clinically but w/ persistent am hypercarbia,
   suboptimal overnight NIPPV
   -obstructive lung disease tx as below
   -sleep disordered breathing mgmt as below
   -cont trending mental status and PCO2
   -BiPAP at night settings are 16/8 with 2L O2, now satting well on 2L by
   day, could even get off supplemental O2 and tolerate Sats in low 90
   COPD exacerbation - multiple recurrent flares, ? if some home or
   environmental exposure related to such poor control
   -transition to PO prednisone today; insulin while on steroids
   -azithro for possible CXR infiltrates/ exacerbation. No clinical signs
   of pna
   -pulm consult to continue following on floor
 will need sleep/pulm
   follow up upon discharge
   Probable OSA/OHV- suboptimal overnight NIPPV
   -BiPAP has been titrated, continue settings on floor
 will need sleep
   study as outpatient
   -will need eventual sleep study to diagnoise
   Anxiety - continue home medicines
   Remainder of plan as per housestaff note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-6-20**] 08:30 AM
   22 Gauge - [**2153-6-20**] 10:00 AM
   Arterial Line - [**2153-6-20**] 02:37 PM
   Prophylaxis:
   DVT: heparin subcut
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : to floor
   Total time spent: 30 minutes